Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Major Surgical or Invasive Procedure:
Cardiac catheterization with coronary angiography and 
drug-eluting stent placed in the mid-left anterior descending 
artery ___

attach
 
Pertinent Results:
ADMISSION LABS:
___ 10:27AM BLOOD WBC-8.3 RBC-5.36 Hgb-15.6 Hct-45.8 MCV-85 
MCH-29.1 MCHC-34.1 RDW-12.5 RDWSD-38.3 Plt ___
___ 10:27AM BLOOD Neuts-72.6* Lymphs-18.7* Monos-7.1 
Eos-0.8* Baso-0.4 Im ___ AbsNeut-6.00 AbsLymp-1.55 
AbsMono-0.59 AbsEos-0.07 AbsBaso-0.03
___ 10:27AM BLOOD ___ PTT-30.7 ___
___ 10:27AM BLOOD Plt ___
___ 10:27AM BLOOD Glucose-87 UreaN-15 Creat-0.8 Na-138 
K-4.4 Cl-98 HCO3-24 AnGap-16
___ 10:27AM BLOOD Calcium-9.7 Phos-2.6* Mg-2.0 Cholest-274*

PERTINENT LABS:
___ 10:27AM BLOOD CK(CPK)-144
___ 10:27AM BLOOD cTropnT-<0.01
___ 10:27AM BLOOD CK-MB-2
___ 07:14AM BLOOD %HbA1c-4.7 eAG-88
___ 07:14AM BLOOD Triglyc-626* HDL-23* CHOL/HD-11.2 
LDLmeas-126
___ 10:27AM BLOOD Triglyc-652* HDL-28* CHOL/HD-9.8 
LDLmeas-PND

DISCHARGE LABS: 
___ 07:14AM BLOOD WBC-7.4 RBC-5.07 Hgb-14.8 Hct-42.9 MCV-85 
MCH-29.2 MCHC-34.5 RDW-12.9 RDWSD-39.0 Plt ___
___ 07:14AM BLOOD Plt ___
___ 07:14AM BLOOD Glucose-80 UreaN-12 Creat-0.8 Na-140 
K-4.2 Cl-100 HCO3-23 AnGap-17
___ 07:14AM BLOOD Calcium-9.7 Phos-2.5* Mg-2.3 Cholest-258*

IMAGING AND PROCEDURES:

CARDIAC CATHETERIZATION: ___
FINDINGS: 
• Single vessel coronary artery disease.
• Successul PCI of the 90% mid LAD stenosis with a 3.x 18 DES, 
posted with a 3.25 NC balloon
up to ___ ATM

TRANSTHORACIC ECHOCARDIOGRAM: ___
Quantitative 3D volumetric left ventricular ejection fraction is 
61 % (normal 54-73%). 
IMPRESSION: Normal study. Normal biventricular cavity sizes and 
regional/global biventricular systolic function. No valvular 
pathology or pathologic flow identified. Normal estimated 
pulmonary artery systolic pressure.

 
Brief Hospital Course:
SUMMARY STATEMENT:
Mr. ___ is a ___ male with past medical history of 
dyslipidemia, who presented to the ___ ED after undergoing 
outpatient stress echocardiogram on ___ that revealed 
severe myocardial ischemia in the mid LAD distribution. He 
underwent coronary angiography showing 90% stenosis in the mid 
LAD with successful PCI and placement of one DES in the mid-LAD.

ACUTE ISSUES
# CAD s/p DES to LAD
The patient reported a 3-month history of worsening exertional 
chest pain with family history significant for CAD in a maternal 
uncle at age ___. Cardiac risk factors included dyslipidemia and 
obesity. The patient underwent successful PCI with one DES to 
the mid-LAD for 90% mid-LAD occlusion via right radial access. 
He remained hemodynamically stable without chest pain following 
cath. He was started on goal-directed therapy with aspirin, 
clopidogrel, beta-blocker and high dose atorvastatin. TTE from 
___ revealed normal biventricular cavity sizes and 
regional/global biventricular systolic function.

# Dyslipidemia
Discontinued home fenofibrate. Started on atorvastatin 80mg 
daily.

# URI
Reported upper respiratory symptoms of nasal congestion, no 
cough.
Noted recent contact with his ___ and ___ year old children with 
colds at home. Offered nasal saline spray and phenylephrine as 
needed.

TRANSITIONAL ISSUES:

[ ] Weight at discharge: 227.73 lb (103.3 kg)

[ ] Blood pressure at discharge: 110s/70s-80s

[ ] Heart rate at discharge: 60s-80s

[ ] Should continue dual anti-platelet with ASA 81mg daily and 
clopidogrel 75mg daily for 12 months (from ___

[ ] Noted to have dyslipidemia with Trig elevated to 626. 
Started on atorvastatin 80mg daily. Please monitor and assess 
need for additional medical management.

[ ] ___ consider Lipoprotein(a) testing in the outpatient 
setting considering CAD at relatively young age of ___ with 
significant family history; raising the concern for genetic 
contribution to development of early coronary disease.

[ ] ___ consider referral to Nutritionist to improve weight to 
modify risk for worsening CAD. The patient expressed interest in 
improving his diet.

# CODE STATUS: FULL CODE
# CONTACT: ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fenofibrate 200 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
Coronary artery disease 

SECONDARY DIAGNOSIS: 
Dyslipidemia  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were having chest pain with exertion and a stress test was 
concerning for a blockage in an artery supplying your heart

WHAT WAS DONE IN THE HOSPITAL?
- You had a procedure called a cardiac catheterization, which 
showed that you had a blockage in one of the main arteries that 
supplies your heart with blood and oxygen. A stent was placed in 
the artery to relieve the blockage. 
- You were monitored after the procedure and started on new 
medications. 
- After 24 hours you were in good condition and the medical team 
felt it was safe for you to go home with close follow-up with 
your primary doctor and your cardiologist. 

WHAT SHOULD I DO WHEN I GET HOME FROM THE HOSPITAL?
- Please continue to take all of your medications as prescribed. 

- Follow-up with your primary doctor and your cardiologist at 
the appointments, which are listed below.
- If you experience chest pain, chest pressure, chest heaviness, 
shortness of breath or generally feel unwell, please call your 
doctor or go to the nearest emergency room.

Sincerely,
Your ___ Treatment Team
 
Followup Instructions:
___